Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Edema, rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with PMH of bipolar 
disorder, EtOH and cocaine use disorder who recently completed 3 
weeks of ___ rehab (___ in ___ who 
presents with 5 days of bilateral leg, arm, and face swelling, 
redness and itching.

He reports 4 days prior to admission he and his family members 
noticed redness and swelling of his legs, face, and eyelids to 
the point that he had occasional difficulty opening his eyes. He 
also has been experience significant shortness of breath with 
exertion, such as when walking around his house on flat ground,
climbing stairs, or working at his ___ job. He also 
developed a headache around the onset of his symptoms, but it 
resolved with motrin and has not recurred. He had a brief 
episode of sharp chest pain on ___ last a few minutes that 
resolved on its own and no other episodes of chest pain. He 
presented to an urgent care facility ___ and was referred to 
the ED so presented to ___.

He feels like he is having dry mouth, difficulty swallowing, and 
some difficulty getting air into his lungs at rest, and one 
episode of vomiting night prior to admission after eating. He 
lives in a heavily tick infested area but has had no recent 
bites to his knowledge. He has gained approximately 45 pounds 
since starting rehab, which he attributes to stopping cocaine, 
but
notes he is about 15 lbs. heavier than he has ever been. While 
in rehab he was started briefly on baclofen which was stopped a 
week ago due to somnolence. He denies any other new medications, 
supplements, herbs, or OTC meds. No recent travel. No 
fevers/chills, night sweats, orthopnea, PND, nausea, dysuria,
urinary frequency, foamy urine, diarrhea, myalgias, arthralgias, 
numbness or tingling in arms/legs, no personal or family history 
of blood clots. Prior to entering rehab he was drinking up to 20 
beers daily, and snorting and smoking cocaine 

ED Course: Urine and serum tox negative, pro-BNP 121, CXR 
unremarkable. Significant dyspnea with walking, and was admitted 
to medicine for further workup for possible angioedema vs. other 
etiology

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI

 
Past Medical History:
Bipolar 
Depression 
Anxiety
Abdominal hernia surgery
 
Social History:
___
Family History:
Parents living and healthy; no known past family history
 
Physical Exam:
Admission
Lower legs with erythema and excoriations.

DISCHARGE:
Vitals: 
___ 0100 Temp: 97.5 PO BP: 132/82 L Sitting HR: 81 RR: 20 
O2
sat: 96% O2 delivery: Ra 
HEENT: facial rash improving
Neck: Supple, + submandibular lymphadenopathy, tender, mobile
Lungs:  CTAB. No wheezes, rhonchi, crackles
CV: regular rate and rhythm. Normal S1, S2. No m/r/g
GI: soft, non-distended, non-tender, (+)BS
Ext: decreased leg erythema and edema
Neuro: Aox3. CNs II-XII diffusely intact
 
Pertinent Results:
ADMISSION:
___ 07:57PM   WBC-5.7 RBC-4.14* HGB-12.7* HCT-37.5* MCV-91 
MCH-30.7 MCHC-33.9 RDW-12.4 RDWSD-40.5
___ 07:57PM   NEUTS-46.8 ___ MONOS-15.8* EOS-3.2 
BASOS-0.2 IM ___ AbsNeut-2.66 AbsLymp-1.91 AbsMono-0.90* 
AbsEos-0.18 AbsBaso-0.01
___ 07:57PM   GLUCOSE-99 UREA N-16 CREAT-0.9 SODIUM-142 
POTASSIUM-4.7 CHLORIDE-105 TOTAL CO2-26 ANION GAP-11

PERTINENT:
___ 07:57PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 07:57PM   TSH-4.5*
___ 07:57PM   ALBUMIN-3.9 CALCIUM-9.3 PHOSPHATE-3.5 
MAGNESIUM-1.8
___ 07:57PM   cTropnT-<0.01 proBNP-121*
___ 07:57PM   ALT(SGPT)-17 AST(SGOT)-19 ALK PHOS-56 TOT 
BILI-0.2
___ 10:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:05AM   HIV Ab-NEG
___ 07:05AM   CRP-4.7
___ 07:05AM   T4-5.3
___ 07:05AM   calTIBC-372 FERRITIN-163 TRF-286
___ 07:05AM   TOT PROT-6.0* IRON-87
___ 07:05AM   LIPASE-20
___ 07:05AM   LD(LDH)-222
___ 06:54AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 07:05AM BLOOD CRP-4.7
___ 06:54AM BLOOD HCV Ab-NEG

DISCHARGE:
___ 07:00AM BLOOD WBC-5.3 RBC-4.44* Hgb-13.5* Hct-39.3* 
MCV-89 MCH-30.4 MCHC-34.4 RDW-12.3 RDWSD-39.8 Plt ___
___ 07:00AM BLOOD Glucose-86 UreaN-12 Creat-0.8 Na-143 
K-5.0 Cl-105 HCO3-27 AnGap-11
___ 07:00AM BLOOD Calcium-9.4 Phos-3.9

IMAGING:
-TTE ___
IMPRESSION: Mild symmetric left ventricular hypertrophy with
normal cavity size and borderline global systolic function.
Normal right ventricular systolic function. Mildly dilated
ascending aorta.
-CXR ___
IMPRESSION:  No focal consolidation. 

 
Brief Hospital Course:
___ year-old male with medical history of bipolar disorder, 
polysubstance abuse who presented with subacute weight gain and 
bilateral upper and lower extremity swelling, bilateral upper 
and lower extremity rash found to have mild diastolic 
dysfunction with etiology thought to be due to expected weight 
gain from dietary changes and allergic response causing rash.

#Edema:
#Weight gain
Patient endorsed an approximately 45lb weight gain over x1 month 
prior to presentation, with reported increased swelling x1 week 
in bilateral upper and lower extremities. Patient underwent 
extensive work-up to assess for potential underlying triggers, 
including negative work-up for liver dysfunction, nephrotic 
syndrome, cardiac problem, rheumatologic condition, or malignant 
problem. TTE notable for mild LVH and grade I diastolic 
dysfunction. Without intervention, his swelling improved. 
Etiology thought to be due to increased po intake. He received 
counseling on cardiac diet.
-Discharge weight: 120.29lbs (265.2kg)
-Studies pending at discharge: blood cultures, ___, dsDNA, Lyme, 
EBV, CMV, RPR

#Rash:
Patient presented with erythematous, blanching rash on bilateral 
upper and lower extremities, which developed after spending time 
gardening. Rash improved with monitoring, making sunburn most 
likely etiology.

#New diagnosis of diastolic congestive heart failure:
In setting of evaluation for etiology of edema, TTE was obtained 
which showed Grade 1 diastolic dysfunction and mild LVH. Likely 
developed in the setting of obesity, hypertension.
-Refer for outpatient follow up

#Normocytic anemia:
Patient with mild normocytic anemia, with work-up notable for 
ESR/CRP within normal limits, no history of chronic disease, 
iron studies within normal limits. Potentially due to chronic 
alcohol use.
-Continue to trend in x1 week

#Bipolar disorder:
-He was continued on his home Depakote and zyprexa

TRANSITIONAL ISSUES:
[] Patient will need to establish care with PCP
[] Counseled on weight management, cardiac diet
[] Follow up pending studies as listed above
[] Ensure patient is enrolled in relapse prevention program
#Code: full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 10 mg PO QHS 
2. Divalproex (DELayed Release) 500 mg PO TID 

 
Discharge Medications:
1.  Divalproex (DELayed Release) 500 mg PO TID  
2.  OLANZapine 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Weight gain
-Rash, likely allergic 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You felt more swollen and had a rash on your legs

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You had an extensive work-up to determine the cause of your 
swelling, which was all reassuring for no acute dangerous 
process
-You had an ultrasound of your heart which showed you have some 
changes from high blood pressure and obesity 

WHAT SHOULD I DO WHEN I GO HOME?
-Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds in 24 hours.
-Take your medications as prescribed
-We will call you on ___ to make sure you have follow 
up with a new primary care doctor

___ you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___